* top6
.tran 1n 5m
Vin in 0 9
Rbleed1 0 in 1Meg
M1 in gate1 sw1 0 NMOS W=1 L=1
D1 0 sw1 DIODE
L1 sw1 out 100u
C1 out 0 220u
Rload out 0 0.278
Vgate1 gate1 0 PULSE(0 9 0 1n 1n 0.08333333333333334 1e-05)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.end
